US05622969
Preparation of 5-[2-[1-[3-[2-E-(7-Chloroquinolin-2-yl)ethenyl]benzyl]-2,3-dihydroindol-7-yl]ethyl]-1H-tetrazole.
A solution of 7-(2-cyanoethyl)-1-[3-[2-E-(7-chloroquinolin-2-yl)ethenyl]benzyl]-2,3-dihydroindole (600 mg) in tri-n-butyltin azide (2.0 mL) was heated in an oil bath at 95° C. for 23 hours. To the cooled solution was added acetonitrile (50 mL), acetic acid (20 mL), and THF (10 mL). The resulting solution was stirred for 3.5 hours and washed with hexane. The hexane layer was separated and discarded. The resulting mixture was concentrated in vacuo and the residue chromatographed (silica gel, 2% methanol/98% methylene chloride) to provide a solid that was recrystallized (ethyl acetate/ether) to provide 235 mg (36%) of the desired product: mp 141°-144° C. 1H-NMR (DMSO-d6) 8.48 (d, J=9 Hz, 1H), 8.08 (m, 2H), 7.85 (d, J=8 Hz, 1H), 7.75 (d, J=17 Hz, 1H), 7.59 (s, 1H), 7.54 (m, 2H), 7.33 (m, 3H), 7.07 (d, J=8 Hz, 1H), 6.95 (d, J=8 Hz, 1H), 6.77 (d, J=8 Hz, 1H), 4.49 (s, 2H), 3.28 (t, 2H, J=7 Hz), 3.17 (m, 2H), 3.08 (m, 2H), 2.83 (t, J=7 Hz, 2H); MS-FD m/e (493, p).

reactant | 7-(2-cyanoethyl)-1-[3-[2-E-(7-chloroquinolin-2-yl)ethenyl]benzyl]-2,3-dihydroindole | 600 mg | C(#N)CCC=1C=CC=C2CCN(C12)CC1=CC(=CC=C1)\C=C\C1=NC2=CC(=CC=C2C=C1)Cl | C29H24ClN3
reactant | acetonitrile | 50 mL | C(C)#N | C2H3N
reactant | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
reactant | THF | 10 mL | C1CCOC1 | C4H8O
reactant | tri-n-butyltin azide | 2.0 mL | C(CCC)[Sn](CCCC)(CCCC)N=[N+]=[N-]
product | 5-[2-[1-[3-[2-E-(7-Chloroquinolin-2-yl)ethenyl]benzyl]-2,3-dihydroindol-7-yl]ethyl]-1H-tetrazole | 235 mg, 36% | ClC1=CC=C2C=CC(=NC2=C1)/C=C/C=1C=C(CN2CCC3=CC=CC(=C23)CCC2=NN=NN2)C=CC1 | C29H25ClN6
